US05162323
Preparation of 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole
A mixture of 4 g (13.3 mmol) of 1-(2-pyrimidinyl)-4-(4-bromobutyl)piperazine, 1.02 g (15 mmol) of pyrazole and 2.76 g (20 mmol) of potassium carbonate in 50 ml of dimethylformamide is heated to reflux for 14 hours. The mixture is evaporated under vacuum, chloroform is added, the organic phase is washed with water, dried over sodium sulphate and evaporated under vacuum, and 3.5 g of an oil which is 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole are obtained.

reactant | 1-(2-pyrimidinyl)-4-(4-bromobutyl)piperazine | 13.3 mmol, 4 g | N1=C(N=CC=C1)N1CCN(CC1)CCCCBr | C12H19BrN4
reactant | pyrazole | 15 mmol, 1.02 g | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1N=CC=C1 | C15H22N6
